US08389536B2
Step 1: 2-Methylsulfanyl-5-phenylethynyl-pyrimidine
Bis-(triphenylphosphine)-palladium(II)dichloride (120 mg, 0.16 mmol) were dissolved in 50 ml THF and 5-bromo-2-methylsulfanyl-pyrimidine (840 mg, 4.1 mmol) and phenylacetylene (410 μl, 4.1 mmol) were added at room temperature. Triethylamine (1.36 ml, 12.3 mmol), triphenylphosphine (28 mg, 0.12 mmol) and copper(I)iodide (19 mg, 0.08 mmol) were added and the mixture was stirred for 3 hours at 65° C. The reaction mixture was cooled and extracted once with saturated NaHCO3 solution and three times with ethyl acetate. The organic layers were combined, dried with sodium sulfate, filtered and evaporated to dryness. The crude product was purified by flash chromatography on silicagel (heptane:ethyl acetate 100:0→50:50). The desired compound was obtained as a light yellow solid (400 mg, 44%), MS: m/e=227.3 (M+H+).

reactant | 5-bromo-2-methylsulfanyl-pyrimidine | 4.1 mmol, 840 mg | BrC=1C=NC(=NC1)SC | C5H5BrN2S
reactant | phenylacetylene | 4.1 mmol, 410 μl | C1(=CC=CC=C1)C#C | C8H6
reactant | Triethylamine | 12.3 mmol, 1.36 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.12 mmol, 28 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Bis-(triphenylphosphine)-palladium(II)dichloride | 0.16 mmol, 120 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.08 mmol, 19 mg | [Cu]I
product | 2-Methylsulfanyl-5-phenylethynyl-pyrimidine | CSC1=NC=C(C=N1)C#CC1=CC=CC=C1 | C13H10N2S
